US06706726B2
1.1.: 2,2-diphenylpropionic Acid Chloride 3a
52.08 g (0.33 mol) of oxalyl chloride are slowly added dropwise to a suspension of 25.0 g (0.11 mol) of 2,2-diphenylpropionic acid, 100 ml of dichloromethane and 4 drops of dimethylformamide at 20° C. The mixture is stirred for 1 h at 20° C. and 0.5 h at 50° C. The solvent is distilled off and the residue remaining is used in the next step without any further purification.

reactant | oxalyl chloride | 0.33 mol, 52.08 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,2-diphenylpropionic acid | 0.11 mol, 25.0 g | C1(=CC=CC=C1)C(C(=O)O)(C)C1=CC=CC=C1 | C15H14O2
catalyst | dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,2-diphenylpropionic Acid Chloride | C1(=CC=CC=C1)C(C(=O)Cl)(C)C1=CC=CC=C1 | C15H13ClO
